US04469872
4-Hydroxy-5-[4-(4-trifluoromethylphenoxy)phenoxy]-2-hexanone N,N-dimethylhydrazone (1 mmol) is dissolved in methanol (15 ml) and 1.0 N pH 7 phosphate buffer (3 ml), and a solution of sodium periodate (2.2 mmol) in water (5 ml) is added at 25° with stirring. After about 3 hours, the reaction mixture is filtered, poured into water and extracted with methylene chloride. The extract is dried and concentrated in vacuo to give 4-hydroxy-5-[4-(4-trifluoromethylphenoxy)phenoxy]-2-hexanone (cpd. 1, Table B).

reactant | 4-Hydroxy-5-[4-(4-trifluoromethylphenoxy)phenoxy]-2-hexanone N,N-dimethylhydrazone | 1 mmol | CN(N=C(C)CC(C(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)O)C | C21H25F3N2O3
reactant | sodium periodate | 2.2 mmol | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | phosphate | 1.0 N, 3 ml, pH 7 | P(=O)([O-])([O-])[O-]
solvent | water | 5 ml | O | H2O
product | 4-hydroxy-5-[4-(4-trifluoromethylphenoxy)phenoxy]-2-hexanone | OC(CC(C)=O)C(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F | C19H19F3O4
